US05312828
(E)-3-[2-n-Butyl-1-{(4-carbomethoxyphenyl)methyl}-1H-imidazol-5-yl]-2-benzyl-2-propenoic Acid
The title compound was prepared using 2-n-butyl-1-[(4-carbomethoxyphenyl)methyl]imidazole-5-aldehyde, prepared by the method described for the preparation of 2-n-butyl-1-[(4-carboethoxy-2-chlorophenyl)methyl]imidazole-5-aldehyde in Example 44, and t-butyl 3-phenylpropanoate by the procedure of Example 27, except, instead of basic hydrolysis, trifluoroacetic acid hydrolysis of the t-butyl ester is employed.

reactant | 2-n-butyl-1-[(4-carbomethoxyphenyl)methyl]imidazole-5-aldehyde | C(CCC)C=1N(C(=CN1)C=O)CC1=CC=C(C=C1)C(=O)OC | C17H20N2O3
reactant | 2-n-butyl-1-[(4-carboethoxy-2-chlorophenyl)methyl]imidazole-5-aldehyde | C(CCC)C=1N(C(=CN1)C=O)CC1=C(C=C(C=C1)C(=O)OCC)Cl | C18H21ClN2O3
reactant | t-butyl 3-phenylpropanoate | C1(=CC=CC=C1)CCC(=O)OC(C)(C)C | C13H18O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (E)-3-[2-n-Butyl-1-{(4-carbomethoxyphenyl)methyl}-1H-imidazol-5-yl]-2-benzyl-2-propenoic Acid | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)O)\CC1=CC=CC=C1)CC1=CC=C(C=C1)C(=O)OC | C26H28N2O4
